US04963553
4,5-Dihydro-7-phenyl-4-[[4-(phenylmethyl)-1-piperazinyl]acetyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 3.8 g of 4-(chloroacetyl)-4,5-dihydro-7-phenylpyrazolo[1,5-a]pyrimidine-3-carbonitrile, 2.5 ml of N-benzylpiperazine and 1.6 g of sodium carbonate in 165 ml of toluene was reacted as described in Example 146, giving 4 g of the desired product, mp 156-158.

reactant | 4-(chloroacetyl)-4,5-dihydro-7-phenylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | 3.8 g | ClCC(=O)N1C=2N(C(=CC1)C1=CC=CC=C1)N=CC2C#N | C15H11ClN4O
reactant | N-benzylpiperazine | 2.5 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium carbonate | 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 165 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Dihydro-7-phenyl-4-[[4-(phenylmethyl)-1-piperazinyl]acetyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 4 g | C1(=CC=CC=C1)C1=CCN(C=2N1N=CC2C#N)C(CN2CCN(CC2)CC2=CC=CC=C2)=O | C26H26N6O
